US04025538
Preparation of 3,5-Dinitro-4-chloro-o-toluoyl Chloride
Ten grams of 3,5-dinitro-4-chloro-o-toluic acid is warmed on a water bath with 9.2 grams of phosphorus pentachloride and 30 ml. of benzene. After the solids dissolve, the benzene is distilled and the phosphorus oxychloride is removed under reduced pressure. The desired product as a residual oil solidifies on chilling.

reactant | 3,5-dinitro-4-chloro-o-toluic acid | Ten grams | [N+](=O)([O-])C1=C(C(=CC(=C1Cl)[N+](=O)[O-])C)C(=O)O | C8H5ClN2O6
reactant | phosphorus pentachloride | 9.2 grams | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,5-Dinitro-4-chloro-o-toluoyl Chloride | [N+](=O)([O-])C1=C(C(=CC(=C1Cl)[N+](=O)[O-])C)C(=O)Cl | C8H4Cl2N2O5
